### ISSUE TITLE
`grind_pattern` do not understand typeclasses `outParam`

### ISSUE THREAD

**Issue by TWal** [leanprover/lean4#11477]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [X] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [X] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [X] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

Although `grind_pattern`s work well with typeclasses (and in particular typeclass hierarchies, see end of code below), it does yet handle `outParam`s. The workarounds for this issue are not satisfactory, see example code below.

```lean4
class Rel (a: Type u) where
  rel: a → a → Prop

class Test {a: Type u} [Rel a] (x: a) (p: outParam (a → Prop)) where
  pf: ∀ y: a, Rel.rel x y = p y

-- example theorem for which we want a grind pattern
theorem test
  {a: Type u} [Rel a]
  (x y: a)
  {p: a → Prop} [Test x p]
  : Rel.rel x y = p y
  := by
    simp [Test.pf]

-- Doing a pattern on `Rel.rel x y` fails,
-- although every implicit parameter or typeclass instance
-- can be deduced from `x` and `y` (because `p` is an outParam)

/--
error: invalid pattern(s) for `test`
  [@Rel.rel #5 #4 #3 #2]
the following theorem parameters cannot be instantiated:
  p : a → Prop
  inst✝ : Test x p
-/
#guard_msgs in
grind_pattern test => Rel.rel x y

-- tentative workaround
grind_pattern test => Rel.rel x y, Test x p

-- works in this case
theorem testGrind
  {a: Type u} [Rel a]
  (x y: a)
  {p: a → Prop} [Test x p]
  : Rel.rel x y = p y
  := by
    grind

-- but unsatisfactory with typeclass hierarchy

class TestBis {a: Type u} [Rel a] (x: a) (p: outParam (a → Prop)) where
  pf: ∀ y: a, Rel.rel x y = p y

instance {a: Type u} [Rel a] (x: a) (p: a → Prop) [TestBis x p]: Test x p where
  pf := TestBis.pf

-- fails there
theorem testBisGrind
  {a: Type u} [Rel a]
  (x y: a)
  {p: a → Prop} [TestBis x p]
  : Rel.rel x y = p y
  := by
    fail_if_success grind
    have: Test x p := inferInstance -- unsatisfactory workaround
    grind

-- Another test which showcases that `grind` works well with typeclass hierarchies (without outParams)
section TestHierarchy
class Refl (a: Type u) [Rel a] where
  refl: ∀ x: a, Rel.rel x x

theorem refl
  {a: Type u} [Rel a] [Refl a]
  (x: a)
  : Rel.rel x x
  := by
    apply Refl.refl

grind_pattern refl => Rel.rel x x

class AllRel (a: Type u) [Rel a] where
  all: ∀ x y: a, Rel.rel x y

instance {a} [Rel a] [AllRel a]: Refl a where
  refl := by simp [AllRel.all]

theorem refl_allrel
  {a: Type u} [Rel a] [AllRel a]
  (x: a)
  : Rel.rel x x
  := by
    grind
end TestHierarchy
```

### Steps to Reproduce

1. Create a Lean file with the code above

**Expected behavior:** the first `guard_pattern` succeeds

**Actual behavior:** instead Lean gives an error message, and workarounds I've thought of are not satisfactory

### Versions

"4.26.0-rc2" and nightly on Lean 4 Web

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by TWal** [comment]
Thanks for the (impressively quick) fix, now that I understand better what was happening here is a better workaround, for posterity

```lean
class Rel (a: Type u) where
  rel: a → a → Prop

class Test {a: Type u} [Rel a] (x: a) (p: outParam (a → Prop)) where
  pf: ∀ y: a, Rel.rel x y = p y
  dummy: Unit -- workaround so that `Test x p` is a `Type` and not a `Prop`

theorem test
  {a: Type u} [Rel a]
  (x y: a)
  {p: a → Prop} [Test x p]
  : Rel.rel x y = p y
  := by
    simp [Test.pf]

-- works!
/--
-/
#guard_msgs in
grind_pattern test => Rel.rel x y
```
